US07932272B2
2-Amino-N-(4-benzyloxy-benzyl)-6-cyclopropylamino-nicotinamide
2-Amino-6-chloro-N-(4-benzyloxy-benzyl)-nicotinamide described in Example A-27 (80 mg, 0.22 mmol) was dissolved in tetrahydrofuran (3 mL), cyclopropylamine (0.3 mL, 4.3 mmol) was added thereto, and the solution was heated in a sealed tube for 16 hours (oil bath temperature: 140° C.). The reaction solution was allowed to room temperature, the solution was concentrated, the obtained residue was purified by NH silica gel column chromatography (ethyl acetate:hexane=2:1), and the title compound (12 mg, 0.031 mmol, 14%) was obtained.

reactant | 2-Amino-6-chloro-N-(4-benzyloxy-benzyl)-nicotinamide | NC1=C(C(=O)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC(=N1)Cl | C20H18ClN3O2
reactant | cyclopropylamine | 4.3 mmol, 0.3 mL | C1(CC1)N | C3H7N
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-Amino-N-(4-benzyloxy-benzyl)-6-cyclopropylamino-nicotinamide | 0.031 mmol, 12 mg, 14% | NC1=C(C(=O)NCC2=CC=C(C=C2)OCC2=CC=CC=C2)C=CC(=N1)NC1CC1 | C23H24N4O2
